US06605610B1
A) 1-(6-Chloro-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaen-10-yl)-2,2,2-trifluoro-ethanone
1-(5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,7,9-tetraen-6-one-10-yl)-2,2,2-trifluoro-ethanone (156 mg, 0.49 mmol) was treated with POCl3 (5 mL) and warmed to 100° C. with stirring for 3 hours. After concentration in vacuo, the residue was diluted with CH2Cl2 (15 mL) and carefully treated with saturated NaHCO3 solution (10 mL) with stirring. Once CO2 evolution slowed the mixture was separated and the aqueous layer extracted CH2Cl2 (3 times). The organic layer was washed with H2O and saturated NaCl solution, filtered through cotton and concentrated to a brown oil (217 mg, 93%). (TLC ethyl acetate, Rf 0.3) 1H NMR (400 MHz, 2HCCl3) δ 8.03 (d, J=8.5 Hz, 1H), 7.83 (s, 1H), 7.62 (s, 1H), 7.35 (d, J=8.5 Hz, 1H), 4.43 (m, 1H), 4.01 (m, 1H), 3.62 (m, 1H), 3.29 (m, 2H), 3.23 (m, 1H), 2.45 (m, 1H), 2.10 (d, J=11.6 Hz, 1H). APCI MS m/e 341.1 [(M+1)+].

reactant | 1-(5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,7,9-tetraen-6-one-10-yl)-2,2,2-trifluoro-ethanone | 0.49 mmol, 156 mg | C12C=3C=C4NC(C=CC4=C(C3C(CNC1)C2)C(C(F)(F)F)=O)=O | C16H13F3N2O2
reactant | POCl3 | 5 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 1-(6-Chloro-5,14-diazatetracyclo[10.3.1.02,11.04,9]hexadeca-2(11),3,5,7,9-pentaen-10-yl)-2,2,2-trifluoro-ethanone | ClC1=NC2=CC=3C4CNCC(C3C(=C2C=C1)C(C(F)(F)F)=O)C4 | C16H12ClF3N2O
